US04722934
2-ethoxy-5-[1-[4-(4-methylphenoxy)phenoxy]-ethyl]-1,3,4-thiadiazole
0.84 g of 4-(4-methylphenoxy)phenol was dissolved in 5 ml of acetone followed by adding 0.87 g of anhydrous potassium carbonate and 1.0 g of 2-(1-bromoethyl)-5-ethoxy-1,3,4-thiadiazole. The resulting mixture was refluxed with stirring and heating for 2 hours. After cooling, insoluble salts were filtered off, and acetone was distilled off under reduced pressure. The residue was purified by chromatography on silica gel to obtain 1.1 g of the compound No. 10 described in Table 1.

reactant | 4-(4-methylphenoxy)phenol | 0.84 g | CC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C13H12O2
reactant | potassium carbonate | 0.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1-bromoethyl)-5-ethoxy-1,3,4-thiadiazole | 1.0 g | BrC(C)C=1SC(=NN1)OCC | C6H9BrN2OS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-ethoxy-5-[1-[4-(4-methylphenoxy)phenoxy]-ethyl]-1,3,4-thiadiazole | 1.1 g | C(C)OC=1SC(=NN1)C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C | C19H20N2O3S
